US06057350
(+)-2-Oxo-4-(3,4-difluorophenyl)-oxazolidine-3-carboxylic acid [2-(4-phenyl-4-methoxycarbonyl-cyclohexylamino)-ethyl]amide (trans isomer).
A mixture of 4-(3,4-difluorophenyl)-3-(4-nitrophenyloxy-carbonyl)-2-oxo-oxazolidine (50 mg, 0.123 mmol) and 2-[4-methoxy-carbonyl-4-phenylcyclohex-1-yl]aminoethylamine (75 mg) in dichloromethane (6 mL) was stirred at room temperature and the product formed was purified by preparative TLC on silica gel using ethyl acetate as the eluent. There were two bands for the two isomers, the higher band was the minor product (1H-NMR confirmed it to be the cis isomer with respect to methoxycarbonyl and amine groups) and the lower band was the major product (1H-NMR confirmed it to be the trans isomer with respect to methoxycarbonyl and amine groups). The HCl salt was made by treatment with 1N HCl in ether.

reactant | 4-(3,4-difluorophenyl)-3-(4-nitrophenyloxy-carbonyl)-2-oxo-oxazolidine | 0.123 mmol, 50 mg | FC=1C=C(C=CC1F)C1N(C(OC1)=O)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H10F2N2O6
reactant | 2-[4-methoxy-carbonyl-4-phenylcyclohex-1-yl]aminoethylamine | 75 mg | COC1(CC(C(CC1)NCCN)=C=O)C1=CC=CC=C1 | C16H22N2O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (+)-2-Oxo-4-(3,4-difluorophenyl)-oxazolidine-3-carboxylic acid [2-(4-phenyl-4-methoxycarbonyl-cyclohexylamino)-ethyl]amide | C1(=CC=CC=C1)C1(CCC(CC1)NCCNC(=O)N1C(OCC1C1=CC(=C(C=C1)F)F)=O)C(=O)OC | C26H29F2N3O5
